US06255333B1
4-Bromoethynyl-5-chloro-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole
To a stirred solution of 5-chloro-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-ethynylpyrazole (0.499 g) in acetone (5 ml) was added N-bromosuccinimide (0.244 g) followed by silver nitrate (0.023 g). Stirring was continued for one hour then the reaction mixture was evaporated to dryness. The residue was partitioned between ether and water. The aqueous layer was separated and extracted with ether. The combined organic layers were washed with brine, dried (Na2SO4) and evaporated. The residue was purified by column chromatography on silica gel eluted with dichloromethane: hexane (1:1). Combination and evaporation of suitable fractions followed by recrystallisation from hexane provided the title compound as a white solid m.p. 152.9-153.4° C.

reactant | 5-chloro-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-ethynylpyrazole | 0.499 g | ClC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C#C | C13H3Cl3F3N3
reactant | N-bromosuccinimide | 0.244 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetone | 5 ml | CC(=O)C | C3H6O
catalyst | silver nitrate | 0.023 g | [N+](=O)([O-])[O-].[Ag+]
product | 4-Bromoethynyl-5-chloro-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | BrC#CC=1C(=NN(C1Cl)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N | C13H2BrCl3F3N3
